US05451582
A solution of 1,3-dihydro-5-(2-propyl)-3(R,S)-[(benzyloxycarbonyl)-amino]-2H-1,4-benzodiazepin-2-one (500 mg, 1.42 mmol) in dimethylformamide (10 ml) under an atmosphere of nitrogen, was treated with sodium hydride (57 mg of a 57% dispersion in mineral oil, 1.42 mmol) in one portion at 0° C. After 1 h, 2-methylpropyl iodide (0.17 ml, 1.50 mmol) was added and the resulting mixture was stirred at room temperature for 16 h. The solvent was then evaporated and the crude residue partitioned between water (15 ml) and dichloromethane (2×20 ml). The combined organic phase was washed with brine (20 ml), dried (MgSO4) and evaporated. The residue was chromatographed on silica using 1:3 ethyl acetate:petrol as eluent, to afford 1,3-dihydro-1-(2-methylpropyl)-5-(2-propyl) -3(R,S)-[(benzyloxycarbonyl)-amino]-2H-1,4-benzodiazepin-2-one (530 mg, 92%) as a colourless solid. 1H NMR (250 MHz, CDCl3) δ 0.72 (3H, d, J=8 Hz), 0.80 (3H, d, J =8 Hz), 1.02 (3H, d, J=7 Hz), 1.30 (3H, d, J=7 Hz), 1.64 (1H, m), 3.10 (1H, m), 3.42 (1H, dd, J=15 Hz, 5 Hz), 4.30 (1H, dd, J=12.5 Hz, J=7.5 Hz), 5.12 (3H, m), 6.55 (1H, d, J=10 Hz), 7.10-7.70 (9H, m).

reactant | 1,3-dihydro-5-(2-propyl)-3(R,S)-[(benzyloxycarbonyl)-amino]-2H-1,4-benzodiazepin-2-one | 1.42 mmol, 500 mg | CC(C)C1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)OCC2=CC=CC=C2 | C20H21N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-methylpropyl iodide | 1.50 mmol, 0.17 ml | CC(CI)C | C4H9I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,3-dihydro-1-(2-methylpropyl)-5-(2-propyl) -3(R,S)-[(benzyloxycarbonyl)-amino]-2H-1,4-benzodiazepin-2-one | 530 mg, 92% | CC(CN1C(C(N=C(C2=C1C=CC=C2)C(C)C)NC(=O)OCC2=CC=CC=C2)=O)C | C24H29N3O3
